US05990329
0.5 g of (2Z,4E,6E,8E)-3,7-dimethyl-9-(2,6,6-trimethyl-5-oxo-cyclohex-1-enyl)-nona-2,4,6,8-tetraenoic acid was dissolved in 25 ml of ethanol while warming slightly and treated with 100 mg of sodium borohydride while cooling with ice. After stirring at 0° C. for 1 hour the reaction mixture was poured on to ice-water, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The organic phases were washed (H2O), dried (Na2SO4) and evaporated. The amorphous residue was filtered over a small column (silica gel, hexane/ethyl acetate=1:1) and recrystallized from hexane/ethyl acetate. 0.35 g of (2Z,4E,6E,8E)-9-(5-hydroxy-2,6,6-trimethyl-cyclohex-1-enyl)-3,7-dimethyl-nona-2,4,6,8-tetraenoic acid was obtained in yellow crystals, m.p. 152-154° C.

reactant | (2Z,4E,6E,8E)-3,7-dimethyl-9-(2,6,6-trimethyl-5-oxo-cyclohex-1-enyl)-nona-2,4,6,8-tetraenoic acid | 0.5 g | C/C(=C/C(=O)O)/C=C/C=C(/C=C/C1=C(CCC(C1(C)C)=O)C)\C | C20H26O3
reactant | sodium borohydride | 100 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (2Z,4E,6E,8E)-9-(5-hydroxy-2,6,6-trimethyl-cyclohex-1-enyl)-3,7-dimethyl-nona-2,4,6,8-tetraenoic acid | 0.35 g | OC1CCC(=C(C1(C)C)/C=C/C(=C/C=C/C(=C\C(=O)O)/C)/C)C | C20H28O3
